US07008949B2
Step 3: Preparation of 2-(2-diethylamino-5-nitropyrimidin-4-ylamino)-3-(4-dimethylcarbamoyloxyphenyl)propionic acid t-butyl ester.
To a solution of 2-(2-diethylamino-5-nitropyrimidin-4-ylamino)-3-(4-hydroxy-phenyl)propionic acid t-butyl ester (31.80 g, 0.074 mol) in CH2Cl2 (600 mL) was added DMAP (9.00 g, 0.074 mol). After 5 minutes triethylamine (10.23 mL, 0.074 mol) was added dropwise. N,N-dimethylcarbamyl chloride (13.83 mL, 0.110 mol) was added dropwise, and the reaction was heated to reflux overnight. The reaction mixture was concentrated in vacuo and taken up in EtOAc (1 L). The organic phase was washed with 0.5 M citric acid (3×250 mL), sat. NaHCO3 (3×250 mL), brine (1×250 mL), dried (MgSO4), filtered, and concentrated in vacuo to yield 37.0 g (99%) the title compound as a white solid.

reactant | 2-(2-diethylamino-5-nitropyrimidin-4-ylamino)-3-(4-hydroxy-phenyl)propionic acid t-butyl ester | 0.074 mol, 31.80 g | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)O)NC1=NC(=NC=C1[N+](=O)[O-])N(CC)CC)=O | C21H29N5O5
reactant | triethylamine | 0.074 mol, 10.23 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylcarbamyl chloride | 0.110 mol, 13.83 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.074 mol, 9.00 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(2-diethylamino-5-nitropyrimidin-4-ylamino)-3-(4-dimethylcarbamoyloxyphenyl)propionic acid t-butyl ester | 37.0 g, 99% | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OC(N(C)C)=O)NC1=NC(=NC=C1[N+](=O)[O-])N(CC)CC)=O | C24H34N6O6
